US06048864
(d) Methyl 3,4-dimethoxy-2-hydroxy-6-nitrobenzoate
4N aqueous sodium hydroxide solution (17 ml) was added to an ice cooled suspension of methyl 3,4-dimethoxy-2-methanesulfonyloxy-6-nitrobenzoate (1.74 g, 0.0052 mol) in dioxane (9 ml) and the resulting orange solution stirred for 1 hour. The reaction mixture was acidified with 2N aqueous hydrochloric acid and extracted with dichloromethane (2×50 ml). The combined organic extracts were dried (MgSO4), filtered and evaporated under reduced pressure to give the subtitle compound as a white solid (1.23 g, 92%). MS m/z 275 (MNH4)+. 1H-NMR (CDCl3): δ=3.92 (9H, m), 6.86 (1H, s), 9.66 (1H, s).

reactant | sodium hydroxide | 4N, 17 ml | [OH-].[Na+]
reactant | methyl 3,4-dimethoxy-2-methanesulfonyloxy-6-nitrobenzoate | 0.0052 mol, 1.74 g | COC=1C(=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-])OS(=O)(=O)C | C11H13NO9S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | 9 ml | O1CCOCC1 | C4H8O2
product | Methyl 3,4-dimethoxy-2-hydroxy-6-nitrobenzoate | 1.23 g, 92% | COC=1C(=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-])O | C10H11NO7
